US07820664B2
Step A: 5-Bromo-2,3,4-trifluorobenzoic acid:
To a solution of iPr2NH (56.8 mmol, 8 ml) in THF (50 ml) at −78° C. was added dropwise a solution of nBuLi (1.6M in hexane, 56.8 ml, 35.5 mmol). The dry ice bath was removed and the mixture was stirred at 0° C. for ˜15 min. The mixture is transferred via cannula to a solution of 1-bromo-2,3,4-trifluorobenzene (47.4 mmol, 10 g) in THF (50 ml) cooled at −78° C. The orange solution was stirred at −78° C. for 1 h, then transferred, via cannula, to freshly grinded dry CO2. The reaction was warmed up to room temperature and stirred overnight. The reaction mixture was cooled at 0° C., quenched with 10% HCl (300 ml), extracted with ether (100 ml×3), dry over MgSO4 and concentrated under reduced pressure to obtain (10.6 g, 88%) of the title compound.

reactant | iPr2NH | 56.8 mmol, 8 ml | N(C(C)C)C(C)C | C6H15N
reactant | nBuLi | 35.5 mmol, 1.6M, 56.8 ml | [Li]CCCC
reactant | 1-bromo-2,3,4-trifluorobenzene | 47.4 mmol, 10 g | BrC1=C(C(=C(C=C1)F)F)F | C6H2BrF3
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-Bromo-2,3,4-trifluorobenzoic acid | 10.6 g, 88% | BrC=1C(=C(C(=C(C(=O)O)C1)F)F)F | C7H2BrF3O2
